US04348519
935 mg. of 3-carbomethoxy-4-hydroxy-2H-[1]benzothieno[2,3-e]-1,2-thiazine 1,1-dioxide are dissolved in 10 ml. of absolute dimethylformamide and 290 mg. of a 55% sodium hydride dispersion in paraffin are added. The suspension is stirred at room temperature for 1 hour. Then, a solution of 730 mg. of 4-methoxybenzyl bromide in 5 ml. of absolute dimethylformamide is added dropwise within 30 minutes, the mixture is stirred at room temperature for a further 3 hours and then poured into 100 ml. of ice-cold water while stirring. The mixture is then acidified to pH 2 with concentrated hydrochloric acid. The precipitate which results is filtered off under suction and dissolved in methylene chloride. The solution is dried over sodium sulfate, filtered and evaporated. The residue crystallizes from methylene chloride after the addition of petroleum ether. The 3-carbomethoxy-4-hydroxy-2-(4-methoxybenzyl)-2H-[1]benzothieno[2,3-e]-1,2-thiazine 1,1-dioxide obtained melts at 163°-164° C.

reactant | 3-carbomethoxy-4-hydroxy-2H-[1]benzothieno[2,3-e]-1,2-thiazine 1,1-dioxide | C(=O)(OC)C=1NS(C2=C(C1O)SC1=C2C=CC=C1)(=O)=O | C12H9NO5S2
reactant | sodium hydride | [H-].[Na+]
reactant | 4-methoxybenzyl bromide | COC1=CC=C(CBr)C=C1 | C8H9BrO
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-carbomethoxy-4-hydroxy-2-(4-methoxybenzyl)-2H-[1]benzothieno[2,3-e]-1,2-thiazine 1,1-dioxide | C(=O)(OC)C=1N(S(C2=C(C1O)SC1=C2C=CC=C1)(=O)=O)CC1=CC=C(C=C1)OC | C20H17NO6S2
